US09126981B2
Synthesis of 2,2-diethoxy-N-(naphthalen-1-ylmethyl)ethanamine (Compound IX-2)
To a solution of 1-naphthaldehyde (2.2 ml, 16.0 mmol) in tetrahydrofuran (6 ml) was added 2,2-diethoxyethanamine (2.9 ml, 20.0 mmol) and the mixture was stirred at room temperature 0.5 hr. And then sodium triacetoxyborohydride (10.6 g, 50 mmol) was added and the mixture was stirred for additional 4 hr. The reaction mixture was diluted with ethyl acetate (200 ml) and washed with saturated aqueous sodium bicarbonate (200 ml), water (200 ml) and brine (200 ml). The organic layer was dried over magnesium sulfate (5 g) and filtered. The filtrate was concentrated in vacuo and the residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=100:0 to 70:30) to obtain the title compound (3.0 g, 46%).

reactant | 1-naphthaldehyde | 16.0 mmol, 2.2 ml | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 2,2-diethoxyethanamine | 20.0 mmol, 2.9 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | sodium triacetoxyborohydride | 50 mmol, 10.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2,2-diethoxy-N-(naphthalen-1-ylmethyl)ethanamine | 3.0 g, 46% | C(C)OC(CNCC1=CC=CC2=CC=CC=C12)OCC | C17H23NO2
